US04141893
To a stirred solution of 14.4 g. of 2-methyl-5a-(3-methoxyphenyl)-decahydrocyclopent[c]azepine in 200 ml. of dichloromethane was added dropwise over thirty minutes to a stirred solution of 11.2 g. of phenyl chloroformate. The reaction mixture was then heated to reflux and stirred for four hours. The reaction mixture was then cooled to 25° C., and the solvent was removed therefrom by evaporation under reduced pressure to provide 2-phenoxycarbonyl-5a-(3-methoxyphenyl)-decahydrocyclopent[c]azepine as a solid. The solid thus formed was dissolved in 600 ml. of ethyl alcohol containing 140 ml. of 50 percent aqueous sodium hydroxide solution. The reaction mixture was heated at reflux and stirred for sixty hours. After cooling to 25° C., the reaction mixture was added to 500 ml. of water, and the aqueous solution was acidified to pH 2 by the addition of 12 N hydrochloric acid. The aqueous acidic solution was washed with diethyl ether to remove any unreacted carbamate, and the aqueous acidic solution was then made alkaline by the addition of 50 percent aqueous sodium hydroxide solution. The aqueous alkaline solution was extracted with fresh diethyl ether. The ethereal extracts were combined, washed with water, and dried. Removal of the solvent by evaporation under reduced pressure provided 7 g. of 5a-(3-methoxyphenyl)-decahydrocyclopent[c]azepine. B.P. 136°-140° C. at 0.05 torr.

reactant | 2-methyl-5a-(3-methoxyphenyl)-decahydrocyclopent[c]azepine | CN1CC2C(CCC1)(CCC2)C2=CC(=CC=C2)OC | C17H25NO
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-phenoxycarbonyl-5a-(3-methoxyphenyl)-decahydrocyclopent[c]azepine | O(C1=CC=CC=C1)C(=O)N1CC2C(CCC1)(CCC2)C2=CC(=CC=C2)OC | C23H27NO3
